US07642264B2
N-tert-Butyl-3-{1-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide was prepared from 2-(4-iodo-imidazol-1-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyrimidine (example E.71) (0.43 g, 1.0 mmol) and commercially available 3-(tert.-butylsulfamoyl)-phenylboronic acid (0.39 g, 1.5 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.19 g) which was subsequently deprotected.

reactant | 2-(4-iodo-imidazol-1-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyrimidine | 1.0 mmol, 0.43 g | IC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)C | C15H10F3IN4
reactant | 3-(tert.-butylsulfamoyl)-phenylboronic acid | 1.5 mmol, 0.39 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-{1-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C=1N=CN(C1)C1=NC(=CC(=N1)C)C1=CC=C(C=C1)C(F)(F)F | C25H24F3N5O2S
